US04898949
2,2-Diphenyl-1-(1-methyl-1H-tetrazol-5-yl)ethene
A mixture of 2(1-methyltetrazol-5-yl)-1,1-diphenylethanol (2.15 g; 7.68 mmole) and KHSO4 (300 mg) was heated at 200° C. for 20 minutes. The cooled mixture (50° C.) was triturated with CHCl3 (50 mL) and the organic solvent was decanted from the inorganic residue. Evaporation afforded the title compound as a cream solid (1.7 g; 85%); m.p.=147°-148° C. (crystallized from EtOAc-hexane). MS (CI): m/e=263 for (M+H)+.

reactant | 2(1-methyltetrazol-5-yl)-1,1-diphenylethanol | 7.68 mmole, 2.15 g | CN1N=NN=C1CC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16N4O
reactant | KHSO4 | 300 mg | OS(=O)(=O)[O-].[K+]
product | 2,2-Diphenyl-1-(1-methyl-1H-tetrazol-5-yl)ethene | 1.7 g, 85% | C1(=CC=CC=C1)C(=CC1=NN=NN1C)C1=CC=CC=C1 | C16H14N4
